US07947727B2
2-Fluoro-N-propyl-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]benzamide
Prepared similarly to Example 1 from 2-fluorobenzoic acid and 1,1,1-trifluoro-3-{[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}-2-[(propylamino)methyl]-2-propanol.

reactant | 2-fluorobenzoic acid | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
reactant | 1,1,1-trifluoro-3-{[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}-2-[(propylamino)methyl]-2-propanol | FC(C(CNC1=C2C=NN(C2=CC=C1)C1=CC=C(C=C1)F)(O)CNCCC)(F)F | C20H22F4N4O
product | 2-Fluoro-N-propyl-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]benzamide | FC1=C(C(=O)N(CC(C(F)(F)F)(O)CNC2=C3C=NN(C3=CC=C2)C2=CC=C(C=C2)F)CCC)C=CC=C1 | C27H25F5N4O2
